US06251919B1
Step 4a: Preparation of Methanesulfonic acid cyclohexylmethyl ester (40d):
Cyclohexylmethanol (1.25 mL, 10.0 mmol) was dissolved in CH2Cl2 (50 mL), treated with diisopropylethylamine (7.0 mL, 40.0 mmol), cooled to 0° C., treated with methanesulfonyl chloride (0.85 mL, 11.0 mmol), and stirred for 1 hour at room temperature. The reaction was diluted with CH2Cl2 (200 mL), washed with saturated bicarbonate solution and brine, dried over Na2SO4, and concentrated to give 2.42 g (125% crude yield) of the desired product which was used immediately without purification.

reactant | Cyclohexylmethanol | 10.0 mmol, 1.25 mL | C1(CCCCC1)CO | C7H14O
reactant | diisopropylethylamine | 40.0 mmol, 7.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 11.0 mmol, 0.85 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid cyclohexylmethyl ester | C1(CCCCC1)COS(=O)(=O)C | C8H16O3S
